US05356897
To a solution of sodium (51 mg) in dry ethanol (3 ml) was added 5-amino-3-(4-fluorophenyl)-4-(pyridin-4-yl)pyrazole (254 mg) and diethyl malonate (176 mg). The mixture was refluxed for 5 hours and cooled. To the reaction mixture were added 1N-hydrochloric acid (4 ml) and water (6 ml). The separated solid was collected, washed with water and dried to give 5,7-dihydroxy-2-(4-fluorophenyl)-3-(pyridin-4-yl)pyrazolo[1,5-a]pyrimidine (210 mg).

reactant | sodium | 51 mg | [Na] | Na
reactant | 5-amino-3-(4-fluorophenyl)-4-(pyridin-4-yl)pyrazole | 254 mg | NC1=C(C(=NN1)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C14H11FN4
reactant | diethyl malonate | 176 mg | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | hydrochloric acid | 4 ml | Cl | ClH
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | water | 6 ml | O | H2O
product | 5,7-dihydroxy-2-(4-fluorophenyl)-3-(pyridin-4-yl)pyrazolo[1,5-a]pyrimidine | 210 mg | OC1=NC=2N(C(=C1)O)N=C(C2C2=CC=NC=C2)C2=CC=C(C=C2)F | C17H11FN4O2
